US07893067B2
Step a) N—[(S)-1-((3S,3aS,6R,6aS)-6-Chloro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carbonyl)-3-methyl-butyl]-3-fluoro-4-[2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]-benzamide
This compound was prepared from N—[(S)-1-((3S,3aS,6R,6aS)-6-chloro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carboxylic acid tert-butyl ester by a series of deprotection (acetyl chloride, MeOH) and HATU-mediated coupling steps with Boc-leucine initially, and finally 3-fluoro-4-[2-(4-methylpiperazin-1-yl)-thiazol-4-yl]benzoic acid HCl salt prepared as described in Example 9.

reactant | (3S,3aS,6R,6aS)-6-chloro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2[C@@H]([C@@H](C1)Cl)OC[C@H]2O | C11H18ClNO4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Boc-leucine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | 3-fluoro-4-[2-(4-methylpiperazin-1-yl)-thiazol-4-yl]benzoic acid HCl salt | Cl.FC=1C=C(C(=O)O)C=CC1C=1N=C(SC1)N1CCN(CC1)C
solvent | MeOH | CO | CH4O
product | N—[(S)-1-((3S,3aS,6R,6aS)-6-Chloro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carbonyl)-3-methyl-butyl]-3-fluoro-4-[2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]-benzamide | Cl[C@H]1[C@@H]2[C@@H](N(C1)C(=O)[C@H](CC(C)C)NC(C1=CC(=C(C=C1)C=1N=C(SC1)N1CCN(CC1)C)F)=O)[C@@H](CO2)O | C27H35ClFN5O4S
